US07473694B2
Synthesis of tert-butyl (S)-3-[7-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6-(2-hydroxyethyl)pyrazolo[1,5-a]pyrimidin-5-ylamino]piperidine-1-carboxylate
A mixture of tert-butyl[5-chloro-6-(2-hydroxyethyl)pyrazolo[1,5-a]pyrimidin-7-yl](4-ethoxyphenyl)carbamate (300 mg) and (S)-3-amino-1-tert-butoxycarbonylpiperidine (900 mg) was stirred at 90° C. for 16 hr. To the reaction solution, 1 mol/L hydrochloric acid was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with aqueous sodium hydrogen carbonate and then brine and dried over sodium sulfate. After the sodium sulfate was filtered off, the solvent was distilled off to obtain the title compound.

reactant | tert-butyl[5-chloro-6-(2-hydroxyethyl)pyrazolo[1,5-a]pyrimidin-7-yl](4-ethoxyphenyl)carbamate | 300 mg | C(C)(C)(C)OC(N(C1=CC=C(C=C1)OCC)C1=C(C(=NC=2N1N=CC2)Cl)CCO)=O | C21H25ClN4O4
reactant | (S)-3-amino-1-tert-butoxycarbonylpiperidine | 900 mg | N[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
product | tert-butyl (S)-3-[7-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6-(2-hydroxyethyl)pyrazolo[1,5-a]pyrimidin-5-ylamino]piperidine-1-carboxylate | C(C)(C)(C)OC(=O)N(C1=C(C(=NC=2N1N=CC2)N[C@@H]2CN(CCC2)C(=O)OC(C)(C)C)CCO)C2=CC=C(C=C2)OCC | C31H44N6O6
